US08008293B2
Synthesis of 4-nitrobenzoic acid (S)-1-[(3R,5R)-5-(4-chlorophenyl)morpholin-3-yl]ethyl ester
Under a nitrogen atmosphere and under ice-cooling, diisopropylazodicarboxylate (1.36 mL) was added dropwise in a tetrahydrofuran solution containing (R)-1-[(3R,5R)-5-(4-chlorophenyl)morpholin-3-yl]ethanol (903 mg), triphenylphosphine (1.81 g), and 4-nitrobenzoic acid (1.16 g). Stirring was continued for 30 minutes at the same temperature and for 2 hours at room temperature. Water and ethyl acetate was added to the reaction solution, and the organic layer was partitioned. The organic layer was washed with brine and was dried over anhydrous magnesium sulfate. The solvent was removed under a vacuum, and the residue was purified by silica gel column chromatography (heptane/ethyl acetate 9/1→8/2→7/3), and the title compound (1.46 g) was obtained. The physical property values are as follows.

reactant | diisopropylazodicarboxylate | 1.36 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | (R)-1-[(3R,5R)-5-(4-chlorophenyl)morpholin-3-yl]ethanol | 903 mg | ClC1=CC=C(C=C1)[C@@H]1COC[C@@H](N1)[C@@H](C)O | C12H16ClNO2
reactant | triphenylphosphine | 1.81 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-nitrobenzoic acid | 1.16 g | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-nitrobenzoic acid (S)-1-[(3R,5R)-5-(4-chlorophenyl)morpholin-3-yl]ethyl ester | 1.46 g | ClC1=CC=C(C=C1)[C@@H]1COC[C@@H](N1)[C@H](C)OC(C1=CC=C(C=C1)[N+](=O)[O-])=O | C19H19ClN2O5
